US04032601
Diphenyl p-tolylsulfonylaminomethylphosphonate
When a mixture of 77.6 g of triphenyl phosphite, 8.2 g of paraformaldehyde, and 42.8 g of p-toluenesulfonamide in 150 g of chlorobenzene is warmed, heat of reaction is observed at about 95° C., and cooling is needed for a few minutes to keep the temperature below 105°. Warming is continued at 95°-105° for 1 hr and then the solvent and most of the by-product phenol is removed at reduced pressure.

reactant | triphenyl phosphite | 77.6 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | paraformaldehyde | 8.2 g | C=O | CH2O
reactant | p-toluenesulfonamide | 42.8 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
solvent | chlorobenzene | 150 g | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl p-tolylsulfonylaminomethylphosphonate | C1(=CC=C(C=C1)S(=O)(=O)NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O)C | C20H20NO5PS
